US07087750B2
4-Bromo-1-(2-methyl-benzenesulfonyl)-1H-indole (Scheme 2)
The compound was prepared from 4-bromoindole (1.02 g, 5.25 mmol) and o-methylbenzenesulfonyl chloride (a 9:1 mixture of ortho and para methyl isomers) (1.29 g, 6.78 mmol) according to method 4. Purification by column chromatography (SiO2, CH2Cl2:heptane) gave 1.6 g (87%) of the title compound which contains ca 10% of the p-methyl isomer) as a light purple viscous oil: 1H NMR (CD3OD) δ 7.94–6.68 (m, 9H), 2.52 (s, 3H); MS (ESI) 352.3 (M+H)+; Purity (HPLC) >95%.

reactant | 4-bromoindole | 5.25 mmol, 1.02 g | BrC1=C2C=CNC2=CC=C1 | C8H6BrN
reactant | o-methylbenzenesulfonyl chloride | CC1=C(C=CC=C1)S(=O)(=O)Cl | C7H7ClO2S
product | 4-Bromo-1-(2-methyl-benzenesulfonyl)-1H-indole | 1.6 g, 87% | BrC1=C2C=CN(C2=CC=C1)S(=O)(=O)C1=C(C=CC=C1)C | C15H12BrNO2S
